US05679683
4-Chloroindolo[2,3-d]pyrimidine hydrochloride (R. G. Glushkov et. al., Khim.-Farm. Zh., 1967, 1(9), 25-32) (240 mg, 1 mmol) and aniline (0.27 mL, 3 mmol) in ethanol (1 mL) are heated under reflux for 6 h. The solvent is evaporated under reduced pressure, and the residue triturated with EtOAc to afford a tan powder which is filtered, and washed with cold ethanol. Recrystallization from acetone/pet. ether gives 4-anilinoindolo[2,3-d]pyrimidine (49 mg, 19%). 1H NMR (DMSO) δ1H, s), 8.84 (1H, s), 8.43 (1H, s), 8.37 (1H, d, J=8.0 Hz), 7.74 (2H, d, J=7.7 Hz), 7.52-7.08 (6H, m).

reactant | 4-Chloroindolo[2,3-d]pyrimidine hydrochloride | 1 mmol, 240 mg | Cl.ClC=1C2=C(N=CN1)NC1=CC=CC=C12
reactant | aniline | 3 mmol, 0.27 mL | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-anilinoindolo[2,3-d]pyrimidine | 49 mg, 19% | N(C1=CC=CC=C1)C=1C2=C(N=CN1)NC1=CC=CC=C12 | C16H12N4
